US07838524B2
N-[4-(3-tert-Butyl-5-{3-[4-(pyridin-4-yloxy)-phenyl]-ureido}-pyrazol-1-yl)-benzyl]-2-methoxy-acetamide
To a solution of 1-[2-(4-aminomethyl-phenyl)-5-tert-butyl-2H-pyrazol-3-yl]-3-[4-(pyridin-4-yloxy)phenyl]urea (400 mg, 0.88 mmol) in THF (20 mL) was added N,N-diisopropylethylamine (0.23 mL, 1.31 mmol). A solution of 3-methoxypropionyl chloride (95 mg, 0.88 mmol) in THF (1 mL) was added to the solution at 0° C. under N2 and the reaction mixture was stirred at room temperature for 3 h. The reaction mixture was concentrated at reduced pressure and dissolved in EtOAc (100 mL). The solution was washed with water and brine, dried over Na2SO4, and concentrated at reduced pressure. The residue was purified by MPLC (50:50 hexanes/EtOAc) to give 240 mg (52%) of the desired product. 1H-NMR (DMSO-d6) δ 9.16 (s, 1H), 8.42 to 8.40 (m, 4H), 7.50 to 7.37 (m, 6H), 7.08 (d, J=8.7 Hz, 2H), 6.85 (d, J=6.0 Hz, 2H), 6.34 (s, 1H), 4.33 (d, J=6.0 Hz, 2H), 3.86 (s, 2H), 3.26 (s, 3H), 1.25 (s, 9H); MS LC-MS [M+H]+=529, RT=2.29 min.

reactant | 1-[2-(4-aminomethyl-phenyl)-5-tert-butyl-2H-pyrazol-3-yl]-3-[4-(pyridin-4-yloxy)phenyl]urea | 0.88 mmol, 400 mg | NCC1=CC=C(C=C1)N1N=C(C=C1NC(=O)NC1=CC=C(C=C1)OC1=CC=NC=C1)C(C)(C)C | C26H28N6O2
reactant | N,N-diisopropylethylamine | 1.31 mmol, 0.23 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 3-methoxypropionyl chloride | 0.88 mmol, 95 mg | COCCC(=O)Cl | C4H7ClO2
reactant | THF | 20 mL | C1CCOC1 | C4H8O
reactant | THF | 1 mL | C1CCOC1 | C4H8O
product | N-[4-(3-tert-Butyl-5-{3-[4-(pyridin-4-yloxy)-phenyl]-ureido}-pyrazol-1-yl)-benzyl]-2-methoxy-acetamide | 240 mg, 52% | C(C)(C)(C)C1=NN(C(=C1)NC(=O)NC1=CC=C(C=C1)OC1=CC=NC=C1)C1=CC=C(CNC(COC)=O)C=C1 | C29H32N6O4
